US04971982
1.61 g of 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran were dissolved in 10 ml of dichloromethane at room temperature and 2.0 g of m-chloroperbenzoic acid were added. After 1 hour the mixture was washed with sodium bisulphite solution, sodium bicarbonate solution and water. The organic phase was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/ethanol/formic acid (40:4:1) for the elution. The product was obtained as an oil which solidified upon trituration with diethyl ether. Recrystallization from toluene gave 0.034 g of 2-(2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide of melting point 148-150° C.

reactant | 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 1.61 g | CC1(OC2=C(C(=C1)C1=NC=CC=C1)C=CC=C2)C | C16H15NO
reactant | m-chloroperbenzoic acid | 2.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide | 0.034 g | CC1(OC2=C(C(=C1)C1=[N+](C=CC=C1)[O-])C=CC=C2)C | C16H15NO2
